US06919331B2
To a mixture of 2-acetoxymethyl-1H-benzoimidazole-4-carboxylic acid methyl ester (2.09 g, 8.42 mmol) and cesium carbonate (4.1 g, 12.6 mmol) in DMF (15 mL) at ambient temperature was added isoamyl iodide (1.34 mL, 10.1 mmol). The mixture was stirred overnight and DMF was removed in vacuo. The residue was suspended in water and extracted with ethyl acetate (twice), the combined organic phases were washed with brine, dried (MgSO4) and concentrated. The residue (2-acetoxymethyl-1-(3-methyl-butyl)-1H-benzoimidazole-4-carboxylic acid methyl ester) was dissolved in methanol (20 mL) and cooled to 0° C., followed by the addition of acetyl chloride (6.0 mL, 84 mmol) and slowly allowed to reach room temperature. After stirring for 3 hrs the volatiles were removed in vacuo and the residue triturated in ethyl acetate to afford 2-hydroxymethyl-1-(3-methyl-butyl)-1H-benzoimidazole-4-carboxylic acid methyl ester after filtration (1.98 g, 85% over 2 steps) as a white solid. 1H NMR Analysis of the crude acetate indicated that the desired N-1 regioisomer was contaminated with the N-3 isomer (ca. 15%), which was efficiently eliminated by the ethyl acetate wash (<2%). The 1H NMR spectral data of the regioisomeric impurity 2-acetoxymethyl-3-(3-methyl-butyl)-3H-benzoimidazole-4-carboxylic acid methyl ester matched those of an authentic sample prepared via an independent route.

reactant | 2-acetoxymethyl-1H-benzoimidazole-4-carboxylic acid methyl ester | 8.42 mmol, 2.09 g | COC(=O)C1=CC=CC=2NC(=NC21)COC(C)=O | C12H12N2O4
reactant | cesium carbonate | 12.6 mmol, 4.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | isoamyl iodide | 10.1 mmol, 1.34 mL | C(CC(C)C)I | C5H11I
reactant | acetyl chloride | 84 mmol, 6.0 mL | C(C)(=O)Cl | C2H3ClO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-hydroxymethyl-1-(3-methyl-butyl)-1H-benzoimidazole-4-carboxylic acid methyl ester | COC(=O)C1=CC=CC=2N(C(=NC21)CO)CCC(C)C | C15H20N2O3
